US06743926B2
5-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3,5-dihydroxypent-2-enoic Acid Methyl Ester
0.256 g (5.87 mmol) of sodium hydride (55%) is introduced into a thoroughly heated 100 ml three-necked round-bottomed flask, equipped with a magnetic stirrer, thermometer, dropping funnel and nitrogen delivery line, and washed twice with 5 ml of pentane. The pentane is removed using a pipette and the sodium hydride is blown dry with nitrogen. 20 ml of THF, rendered absolute using sodium, are then added, and the suspension is cooled to 3° C. by means of an ice bath with stirring. 0.68 g (5.87 mmol) of methyl acetoacetate dissolved in 5 ml of absolute THF is then slowly added dropwise so that the internal temperature does not exceed 5° C. The suspension is stirred for 15 min. while cooling with ice. 3.75 ml (6.0 mmol) of butyllithium (1.6M in hexane) are slowly added dropwise to the almost clear solution so that the internal temperature does not exceed 5° C. The clear yellow solution is stirred for 20 min. while cooling with ice. 1.0 g (3.55 mmol) of 3-(4-fluorophenyl)-1-isopropyl-1H-indole-2-carbaldehyde dissolved in 5 ml of absolute THF are added dropwise over a period of 2 min., in the course of which the internal temperature rises to 10° C. After 4 hours, the reaction mixture is poured into 100 ml of ice-water, stirred for 10 min. and extracted 3 times with 100 ml of ethyl acetate. The combined organic phases are washed twice with 100 ml of saturated sodium chloride solution in order to render neutral, dried over magnesium sulfate, filtered and concentrated by evaporation at 80° C.

reactant | sodium hydride | 5.87 mmol, 0.256 g | [H-].[Na+]
reactant | methyl acetoacetate | 5.87 mmol, 0.68 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | butyllithium | 6.0 mmol, 1.6M, 3.75 ml | C(CCC)[Li]
reactant | 3-(4-fluorophenyl)-1-isopropyl-1H-indole-2-carbaldehyde | 3.55 mmol, 1.0 g | FC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)C(C)C)C=O | C18H16FNO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3,5-dihydroxypent-2-enoic Acid Methyl Ester | COC(C=C(CC(O)C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)O)=O | C23H24FNO4
